US09233974B2
To a 1 L flask containing palladium(II) pivalate (1.18 g, 3.8 mmol), tri(4-fluorophenyl)phosphine (1.20 g, 3.8 mmol), pivalic acid (2.33 g, 22.8 mmol) and potassium carbonate (31.8 g, 228 mmol) was added a solution of 7-(2-bromo-5-chlorobenzyloxy)-3,4-dihydronaphthalen-1(2H)-one (27.8 g, 76.2 mmol) in dimethyacetamide (380 mL). The flask was evacuated and backfilled with argon 5 times and then stirred under argon at 60° C. for 24 hours. The reaction was cooled to room temperature and diluted with MTBE and water. The resulting biphasic mixture was stirred for 3 hours and filtered through Celite, rinsing with MTBE. The organic layer of the filtrate was separated and then washed twice with water and once with brine. The organics were then dried with magnesium sulfate, filtered, concentrated and purified by flash column chromatography (Hexanes/DCM) to yield 3-chloro-10,11-dihydro-5H-dibenzo[c,g]chromen-8(9H)-one (14.4 g, 67% yield) as an off-white solid.

reactant | pivalic acid | 22.8 mmol, 2.33 g | C(C(C)(C)C)(=O)O | C5H10O2
reactant | potassium carbonate | 228 mmol, 31.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | 7-(2-bromo-5-chlorobenzyloxy)-3,4-dihydronaphthalen-1(2H)-one | 76.2 mmol, 27.8 g | BrC1=C(COC2=CC=C3CCCC(C3=C2)=O)C=C(C=C1)Cl | C17H14BrClO2
solvent | dimethyacetamide | 380 mL | CC(=O)N(C)C | C4H9NO
catalyst | palladium(II) pivalate | 3.8 mmol, 1.18 g | C(C(C)(C)C)(=O)[O-].[Pd+2].C(C(C)(C)C)(=O)[O-]
catalyst | tri(4-fluorophenyl)phosphine | 3.8 mmol, 1.20 g | FC1=CC=C(C=C1)P(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F | C18H12F3P
product | 3-chloro-10,11-dihydro-5H-dibenzo[c,g]chromen-8(9H)-one | 14.4 g, 67% yield | ClC=1C=CC2=C(COC=3C=C4C(=CC23)CCCC4=O)C1 | C17H13ClO2
